US05576322
2-Ethoxycarbonylmethoxyiminomethyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
0.10 g (2.5 mmol) of sodium hydride was added to a suspension of 0.50 g (1.4 mmol) of 2-hydroxyiminomethyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline in 25 ml of dimethylformamide. The obtained mixture was stirred. After 30 minutes, 25 ml (2.3 mmol) of ethyl bromoacetate was dropped into the mixture. The mixture thus obtained was stirred at room temperature for several hours, followed by the addition of water. The obtained mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was distilled under a reducer pressure to remove the solvent. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane) to give 0.52 g of the title compound as a pale-yellow crystal.

reactant | sodium hydride | 2.5 mmol, 0.10 g | [H-].[Na+]
reactant | 2-hydroxyiminomethyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 1.4 mmol, 0.50 g | ON=CC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C17H13ClN4O3
reactant | ethyl bromoacetate | 2.3 mmol, 25 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-Ethoxycarbonylmethoxyiminomethyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 0.52 g | C(C)OC(=O)CON=CC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C21H19ClN4O5
